US07615642B2
Step B: N-cyclopropyl-1H-pyrrole-3-carboxamide
Following the same procedure in Example 31, step B, using DIPEA (0.87 mL, 0.65 g, 5.0 mmol), 1H-pyrrole-3-carboxylic acid (0.25 g, 2.3 mmol), cyclopropylamine (0.14 g, 2.5 mmol) and HATU (1.0 g, 2.7 mmol) in DMF (10 mL). The crude product was purified by MPLC using EtOAc on silica gel to 52 mg (15%) of the title product. 1H NMR (400 MHz, METHANOL-D4) δ 0.42-0.63 (m, 2 H), 0.66-0.83 (m, 2 H), 2.60-2.80 (m, 1 H), 6.49 (dd, J=2.93, 1.56 Hz, 1 H), 6.69 (dd, J=2.73, 1.95 Hz, 1 H), 7.30 (t, J=1.76 Hz, 1 H).

reactant | DIPEA | 5.0 mmol, 0.87 mL, 0.65 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 1H-pyrrole-3-carboxylic acid | 2.3 mmol, 0.25 g | N1C=C(C=C1)C(=O)O | C5H5NO2
reactant | cyclopropylamine | 2.5 mmol, 0.14 g | C1(CC1)N | C3H7N
reactant | HATU | 2.7 mmol, 1.0 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-cyclopropyl-1H-pyrrole-3-carboxamide | C1(CC1)NC(=O)C1=CNC=C1 | C8H10N2O
